US06756385B2
1,4-Dinitroimidazole (237 mg, 1.5 mmol, J. Phys. Chem. 1995, 99, 5009-5015) was added to a solution of cyclobutylamine (107 mg, 1.5 mmol) in methanol (10 mL) at 23° C. The reaction mixture was stirred for 16 h, then the solvent was removed in vacuo and the resulting residue was purified by silica gel chromatography (1:1 hexanes-ethyl acetate) to afford 230 mg (92% yield) of 1-cyclobutyl-4-nitro-1H-imidazole; 1H NMR (400 MHz, CDCl3) δ7.81 (s, 1H), 7.45 (s, 1H), 4.64 (m, 1H), 2.6 (m, 2H), 2.4 (m, 2H), 2.0 (m, 2H); MS (AP/Cl): 168.2 (M+H)+. Note: 1,4-Dinitroimidazole is a highly energetic, semi-stable substance and should be stored in a freezer at all times it is not in use. Thermodynamic measurements have shown that it can potentially generate enough energy at 35° C. under adiabatic conditions to violently explode. Extreme caution should be exercised at all times using this material.

reactant | 1,4-Dinitroimidazole | 1.5 mmol, 237 mg | [N+](=O)([O-])N1C=NC(=C1)[N+](=O)[O-] | C3H2N4O4
reactant | cyclobutylamine | 1.5 mmol, 107 mg | C1(CCC1)N | C4H9N
solvent | methanol | 10 mL | CO | CH4O
product | 1-cyclobutyl-4-nitro-1H-imidazole | 230 mg, 92% yield | C1(CCC1)N1C=NC(=C1)[N+](=O)[O-] | C7H9N3O2
